US04746673
Preparation of 1-(p-chlorophenoxy)-3,3-dimethyl-4-chloro-2-butanone
Into a 100-ml egg plant type flask were placed 2.4 g of 1-(p-chlorophenoxy)-3,3-dimethyl-4-hydroxy-2-butanone, 2.6 g of triphenylphosphine and 50 ml of carbon tetrachloride, which were then refluxed for 18 hours. The reaction mixture was cooled, the crystals separating out were filtered off, and the filtrate was concentrated in a vacuum. The residue obtained was purified by silica gel column chromatography, giving 1.8 g of the above-identified desired compound.

reactant | 1-(p-chlorophenoxy)-3,3-dimethyl-4-hydroxy-2-butanone | 2.4 g | ClC1=CC=C(OCC(C(CO)(C)C)=O)C=C1 | C12H15ClO3
reactant | triphenylphosphine | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(p-chlorophenoxy)-3,3-dimethyl-4-chloro-2-butanone | 1.8 g | ClC1=CC=C(OCC(C(CCl)(C)C)=O)C=C1 | C12H14Cl2O2
